resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.003408
R2 0 n2 0.984273
R3 0 n4 1.003212
R4 n1 n3 0.980793
R5 n1 n5 1.009476
R6 n2 n3 1.001667
R7 n2 n6 1.017671
R8 n3 n7 0.985872
R9 n4 n5 0.985368
R10 n4 n6 1.013603
R11 n5 n7 0.98325
R12 n6 n7 1.008484
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
